US04112236
Step C: Preparation of 4-{3-[N-(4-Hydroxy-2-nonenyl)-methanesulfonamido]propyl}benzoic Acid
Ethyl 4-{3-[N-(4-Acetoxy-2-nonenyl)methanesulfonamido]propyl}benzoate (23.4 g., 0.05 mole) is added to a solution of sodium hydroxide (6.0 g., 0.15 mole) in water (30 ml.) and methanol (300 ml.). The resulting solution is boiled under reflux for 2 hours.

reactant | Ethyl 4-{3-[N-(4-Acetoxy-2-nonenyl)methanesulfonamido]propyl}benzoate | 0.05 mole, 23.4 g | C(C)(=O)OC(C=CCN(S(=O)(=O)C)CCCC1=CC=C(C(=O)OCC)C=C1)CCCCC | C24H37NO6S
reactant | sodium hydroxide | 0.15 mole, 6.0 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 4-{3-[N-(4-Hydroxy-2-nonenyl)-methanesulfonamido]propyl}benzoic Acid | OC(C=CCN(S(=O)(=O)C)CCCC1=CC=C(C(=O)O)C=C1)CCCCC | C20H31NO5S
